US05391556
[3-[[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]sulphamoyl]-carbazol-9-yl-acetic acid
To a solution of 0.6 g (0.001 Mol) of ethyl [3-[[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]sulphamoyl]-carbazol-9-yl]-acetate in 5 ml of dioxane and 5 ml of methanol are added dropwise 4 ml of 1N sodium hydroxide solution and the mixture is stirred at 20° C. for one hour. It is then diluted with 20 ml of water and mixed with 4 ml of 1N hydrochloric acid. The organic solvent is eliminated in vacuo, the product precipitated is suction filtered, washed with water and dried.

reactant | ethyl [3-[[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]sulphamoyl]-carbazol-9-yl]-acetate | 0.001 Mol, 0.6 g | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C=2C=CC=1N(C3=CC=CC=C3C1C2)CC(=O)OCC | C32H35N5O5S
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-[[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]sulphamoyl]-carbazol-9-yl-acetic acid | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C=2C=CC=1N(C3=CC=CC=C3C1C2)CC(=O)O | C30H31N5O5S
